US05994374
a) 4-(1-Phenylethenyl)pyridine
Methyltriphenylphosphonium iodide (12.13 g, 30 mmol) and potassium t-butoxide (3.37 g, 30 mmol) in anhydrous tetrahydrofuran (110 ml) was stirred and heated at reflux under a nitrogen atmosphere for 1.5 hours. The mixture was cooled to 2° C. then treated with a solution of 4-benzoylpyridine (5.0 g, 27.3 mmol) in anhydrous tetrahydrofuran (30 ml) dropwise. The reaction mixture was stirred at 0° C. for 1 hour then at room temperature for 18 hours. The mixture was treated with saturated ammonium chloride solution (75 ml), the organic layer was collected and the aqueous re-extracted with ethyl acetate (2×100 ml). The combined organics were dried (sodium sulphate), evaporated, then the residue was purified by column chromatography on silica using 25% ethyl acetate in petroleum ether (60-80). The title compound was obtained as a gum (3.77 g, 76%), δ(360 MHz, CDCl3)5.60 (2H, d, J=3 Hz), 7.24-7.40 (7H, m), 8.60 (2H, d, J=5 Hz).

reactant | Methyltriphenylphosphonium iodide | 30 mmol, 12.13 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 30 mmol, 3.37 g | CC(C)([O-])C.[K+]
reactant | 4-benzoylpyridine | 27.3 mmol, 5.0 g | C(C1=CC=CC=C1)(=O)C1=CC=NC=C1 | C12H9NO
reactant | ammonium chloride | 75 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(1-Phenylethenyl)pyridine | C1(=CC=CC=C1)C(=C)C1=CC=NC=C1 | C13H11N
